US04004907
86 g of 4-(2'-phenyl-ethylthio)-nitrobenzene is dissolved in 900 ml of methanol and catalytically hydrogenated with Raney nickel. After completion of the absorption of hydrogen, the catalyst is filtered off and the filtrate is concentrated by evaporation. There is obtained 4-(2'-phenyl-ethylthio)-aniline as oily residue, which is used without purification in the next reaction stage.

reactant | 4-(2'-phenyl-ethylthio)-nitrobenzene | 86 g | C1(=CC=CC=C1)CCSC1=CC=C(C=C1)[N+](=O)[O-] | C14H13NO2S
solvent | methanol | 900 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 4-(2'-phenyl-ethylthio)-aniline | C1(=CC=CC=C1)CCSC1=CC=C(N)C=C1 | C14H15NS
